US07834035B2
58(B) (4-Fluoro-phenyl)-{3-[5-(4-fluoro-phenyl)-[1,3,4]oxadiazol-2-yl]-piperidin-1-yl}-methanone
A mixture of 4-fluoro-benzoic acid N′-[(S)-1-(4-fluoro-benzoyl)-piperidine-3-carbonyl]-hydrazide (100 mg, 0.26 mmol), 4-toluenesulfonyl chloride (60 mg, 0.31 mmol), solid supported 2-tert-Butylimino-2-diethylamino-1,3-dimethyl-perhydro-1,3,2-diaza-phosphorine (PS-BEMP, ex Fluka, 586 mg, 1.3 mmol, loading 2.2 mmol/g) in dry tetrahydrofuran (6 mL) was irradiated by microwaves under the following conditions: MW cycle: t=1 min, P=100 W, cooling time=2 min. After 5 MW cycles, the resin was filtered off and washed repeatedly with dichloromethane. The solvent was evaporated under reduced pressure to give a crude solid that was purified by flash chromatography (silica gel, eluent: hexane/ethyl acetate 1:1). The title compound was obtained as a white solid (82 mg).

reactant | 4-fluoro-benzoic acid N′-[(S)-1-(4-fluoro-benzoyl)-piperidine-3-carbonyl]-hydrazide | 0.26 mmol, 100 mg | FC1=CC=C(C(=O)N2C[C@H](CCC2)C(=O)NNC(C2=CC=C(C=C2)F)=O)C=C1 | C20H19F2N3O3
reactant | 4-toluenesulfonyl chloride | 0.31 mmol, 60 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2-tert-Butylimino-2-diethylamino-1,3-dimethyl-perhydro-1,3,2-diaza-phosphorine | 1.3 mmol, 586 mg | C(C)(C)(C)N=P1(N(CCCN1C)C)N(CC)CC | C13H31N4P
reactant | BEMP | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | (4-Fluoro-phenyl)-{3-[5-(4-fluoro-phenyl)-[1,3,4]oxadiazol-2-yl]-piperidin-1-yl}-methanone | Yield: 85% | FC1=CC=C(C=C1)C(=O)N1CC(CCC1)C=1OC(=NN1)C1=CC=C(C=C1)F | C20H17F2N3O2
